US06936612B2
Under a dry argon atmosphere were combined 6-bromo-8-cyclopentyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.78 g, 2.19 mmol, prepared as in Example 107 of WO 98/33798 (incorporated herein by reference)) and 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.67 g, 2.4 mmol) without solvent. The flask was evacuated and heated to 120° C. for 1 hour. The mixture was purified by chromatography on silica gel, eluting with chloroform, to give a yellow foam, 0.288 g. Recrystalization from acetonitrile gave 4-[6-(6-bromo-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.266 g, 21%). MS (APCI); M++1: Calc'd, 570.17. Found, 570.0.

reactant | 6-bromo-8-cyclopentyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | BrC1=CC2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1 | C13H14BrN3O2S
reactant | 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 2.4 mmol, 0.67 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
product | 4-[6-(6-bromo-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.266 g, 21% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)Br)=O)C2CCCC2 | C26H32BrN7O3
